data/oMe_Silver.jsonl
{"reaction_id": "NG-010_1-C#N_2-C2CCOC2_3-C","name": "Bamford-Stevens Reaction","level": "medium","reactants_smiles": ["C(=NNS(=O)(=O)c1ccc(C)cc1)(C(C#N)(C2CCOC2))(C)"],"products_smiles": ["C(=C(C#N)(C2CCOC2))C(C)"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=N[N-]S(=O)(=O)c1ccc(C)cc1)(C(C#N)(C2CCOC2))(C)","rationale": "Base abstracts a proton alpha to the hydrazone nitrogen, stabilized by resonance into the adjacent imine, making the nitrogen anion more nucleophilic and primed for tosylate elimination."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=[N+]=[N-])(C(C#N)(C2CCOC2))(C)","rationale": "The negatively charged nitrogen facilitates expulsion of the tosylate, a good leaving group due to resonance stabilization by the sulfonyl group, forming a diazo species."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[C](C(C#N)(C2CCOC2))(C)","rationale": "The diazo compound thermally or base-promotedly loses N₂ gas, a highly stable leaving group, generating an electron-deficient carbene intermediate."},{"step": 4,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=C(C#N)(C2CCOC2))C(C)","rationale": "The carbene undergoes a 1,2-shift of C#N or C2CCOC2 to stabilize the electron-deficient center, forming the more thermodynamically stable alkene via rearrangement."}],"description": "Under basic conditions, the Bamford–Stevens reaction proceeds via deprotonation of the tosylhydrazone, generating an anion that eliminates the tosylate. This forms a diazo intermediate, which loses nitrogen to yield a carbene. A 1,2-shift then rearranges the carbene to the alkene product."}
{"reaction_id": "NR-137_1-C(C)(C)C_2-C(C)(C)C_3-C(F)(F)F_4-C(F)(F)F","name": "Maitland-Japp Reaction","level": "medium","reactants_smiles": ["C(C(C)(C)C)C(=O)C(C(C)(C)C)","O=CC(C(F)(F)F)"],"products_smiles": ["C1(C(F)(F)F)OC(C(F)(F)F)C(C(C)(C)C)C(=O)C1(C(C)(C)C)"],"conditions": "Acid","mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(C(C)(C)C)C(=O)C(=C(C(F)(F)F))(C(C)(C)C)","rationale": "Acid catalysis increases carbonyl electrophilicity, enabling enol or enolate attack on the aldehyde to form the conjugated α,β-unsaturated system stabilized by resonance."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(F)(F)F)=C(C(C)(C)C)C(=O)C(C(C)(C)C)C(O)(C(F)(F)F)","rationale": "The activated alkene undergoes nucleophilic addition from a hydroxyl group, favored by conjugation breaking and formation of a stabilized carbocation intermediate under acidic conditions."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(F)(F)F)=C(C(C)(C)C)C(=[OH+])C(C(C)(C)C)C(O)(C(F)(F)F)","rationale": "Protonation of the carbonyl oxygen increases electrophilicity, preparing the intermediate for subsequent intramolecular nucleophilic attack."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(F)(F)F)C(C(C)(C)C)=C(O)C(C(C)(C)C)C(C(F)(F)F)[OH+]1","rationale": "Intramolecular nucleophilic addition is favored entropically and electronically, as the nearby hydroxyl oxygen attacks the protonated carbonyl to form a cyclic oxonium ion."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C(F)(F)F)C(C(C)(C)C)=C(O)C(C(C)(C)C)C(C(F)(F)F)O1","rationale": "Deprotonation of the oxonium ion restores neutrality, stabilizing the newly formed heterocyclic ring."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C(F)(F)F)OC(C(F)(F)F)C(C(C)(C)C)C(=O)C1(C(C)(C)C)","rationale": "Proton transfer rearranges the oxygen protonation state, yielding the thermodynamically stable cyclic ether with a carbonyl group."}],"description": "Under acidic conditions, the carbonyl compound and aldehyde undergo condensation to form an α,β-unsaturated intermediate, which then participates in intramolecular nucleophilic addition and cyclization. Proton transfers facilitate ring closure and rearrangement to yield the stable cyclic product."}
